US07579469B2
To a solution of 4-(5-fluoro-2-methoxyphenyl)-4-methyl-2-trifluoromethylpentane-1,2-diol (8.15 g) and pyridine (21.2 mL) in 50 mL of methylene chloride (CH2Cl2) at 0° C.-5° C. was added dropwise methanesulfonyl chloride (2.63 mL). The mixture was warmed to room temperature, stirred overnight and methanol (80 mL) and K2CO3 (36.2 g) were added. The mixture was stirred 4 hours, diluted with diethyl ether, washed with water, dilute HCl, and brine, and dried over magnesium sulfate. Removal of the volatiles in vacuo provided a residue that was purified by flash silica gel chromatography using 5% EtOAc in hexanes as the eluent. The product-rich fractions were collected and the volatiles removed in vacuo to provide 2-[2-(5-fluoro-2-methoxyphenyl)-2-methylpropyl]-2-trifluoromethyloxirane.

reactant | 4-(5-fluoro-2-methoxyphenyl)-4-methyl-2-trifluoromethylpentane-1,2-diol | 8.15 g | FC=1C=CC(=C(C1)C(CC(CO)(O)C(F)(F)F)(C)C)OC | C14H18F4O3
reactant | pyridine | 21.2 mL | N1=CC=CC=C1 | C5H5N
reactant | methanesulfonyl chloride | 2.63 mL | CS(=O)(=O)Cl | CH3ClO2S
reactant | K2CO3 | 36.2 g | C(=O)([O-])[O-].[K+].[K+]
solvent | methylene chloride | 50 mL | C(Cl)Cl | CH2Cl2
solvent | diethyl ether | C(C)OCC | C4H10O
solvent | methanol | 80 mL | CO | CH4O
product | 2-[2-(5-fluoro-2-methoxyphenyl)-2-methylpropyl]-2-trifluoromethyloxirane | FC=1C=CC(=C(C1)C(CC1(OC1)C(F)(F)F)(C)C)OC | C14H16F4O2
